US09428502B2
Compound 151.1. 2-(Morpholin-4-yl)-5-nitropyridin-4-amine
Into a 50-mL sealed tube, were placed a solution of 2-chloro-5-nitropyridin-4-amine (500 mg, 2.88 mmol) in N,N-dimethylformamide (20 mL) and morpholine (503 μL, 5.77 mmol). The reaction mixture was stirred overnight at 55° C. The reaction was then quenched by the addition of 100 mL of water. The reaction mixture was extracted with 3×150 mL of ethyl acetate. The organic layers were combined, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. This resulted in 733 mg (crude) of the title compound as a yellow solid.

reactant | 2-chloro-5-nitropyridin-4-amine | 2.88 mmol, 500 mg | ClC1=NC=C(C(=C1)N)[N+](=O)[O-] | C5H4ClN3O2
reactant | morpholine | 5.77 mmol, 503 μL | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-(Morpholin-4-yl)-5-nitropyridin-4-amine | N1(CCOCC1)C1=NC=C(C(=C1)N)[N+](=O)[O-] | C9H12N4O3
